US09353086B2
tert-Butyl 3-[2-(4-benzyl-1,4-diazepan-1-yl)-2-oxoethyl]morpholine-4-carboxylate
4-N-Boc-morpholine-3-acetic acid (500 mg, 2.04 mmol) and benzyl homopiperazine (388 mg, 2.04 mmol) were dissolved in DMF (20 mL) and cooled to 0° C. DIPEA (553 mg, 4.28 mmol) and HBTU (773 mg, 2.04 mmol) were added and the reaction mixture was stirred for 2 h. The solvents were removed in vacuo and the residue was partitioned between DCM (100 mL) and water (50 mL). The organic fraction was washed with 1 M aq Na2CO3 (25 mL), brine (25 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by reverse phase column chromatography to give the title compound (730 mg, 86%) as a light yellow gum. LCMS (ES+): 418.4 [MH]+.

reactant | 4-N-Boc-morpholine-3-acetic acid | 2.04 mmol, 500 mg | C(=O)(OC(C)(C)C)N1C(COCC1)CC(=O)O | C11H19NO5
reactant | benzyl homopiperazine | 2.04 mmol, 388 mg | C(C1=CC=CC=C1)N1CCNCCC1 | C12H18N2
reactant | DIPEA | 4.28 mmol, 553 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 2.04 mmol, 773 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-[2-(4-benzyl-1,4-diazepan-1-yl)-2-oxoethyl]morpholine-4-carboxylate | 730 mg, 86% | C(C1=CC=CC=C1)N1CCN(CCC1)C(CC1N(CCOC1)C(=O)OC(C)(C)C)=O | C23H35N3O4
